US06569854B1
1.52 g of glutaric anhydride and then 1.92 g of 1-(2-methoxyethyl)piperazine in solution in 3 cm3 of dioxane are added to 13 cm3 of dioxane. After stirring for 5 hours at room temperature, an additional 300 mg of glutaric anhydride are added and then the stirring is continued at 20° C. for 18 hours. The solvent is evaporated under reduced pressure and the resulting oil is dried at 20° C. (90 Pa) to give 3.4 g of 5-[4-(2-methoxyethyl)piperazin-1-yl]-5-oxopentanoic acid in the form of an orange-colored lacquer which is used as it is.

reactant | glutaric anhydride | 1.52 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 1-(2-methoxyethyl)piperazine | 1.92 g | COCCN1CCNCC1 | C7H16N2O
reactant | glutaric anhydride | 300 mg | C1(CCCC(=O)O1)=O | C5H6O3
solvent | dioxane | 3 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 13 cm3 | O1CCOCC1 | C4H8O2
product | 5-[4-(2-methoxyethyl)piperazin-1-yl]-5-oxopentanoic acid | 3.4 g | COCCN1CCN(CC1)C(CCCC(=O)O)=O | C12H22N2O4
